US07459454B2
(c) Preparation of 3-(1H-benzimidazol-2-yl)-5-(3-fluorophenyl)pyrazin-2-amine
3-amino-6-(3-fluorophenyl)pyrazine-2 carboxylic acid (0.096 g, 0.41 mmol), ortho-phenylenediamine (0.049 g, 0.45 mmol), diethyl cyanophosphonate (0.07 g, 0.45 mmol), and triethylamine (0.083 g, 0.82 mmol) were combined in 5 mL of dimethoxyethane. The mixture was heated to 200° C. for 10 min in the SmithSynthesizer microwave. The cooled mixture was poured into 30 mL of H2O and the mixture was filtered to collect 3-(1H-benzimidazol-2-yl)-5-(3-fluorophenyl)pyrazin-2-amine (23 mg) as a yellow solid.

reactant | 3-amino-6-(3-fluorophenyl)pyrazine-2 carboxylic acid | 0.41 mmol, 0.096 g | NC=1C(=NC(=CN1)C1=CC(=CC=C1)F)C(=O)O | C11H8FN3O2
reactant | ortho-phenylenediamine | 0.45 mmol, 0.049 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | diethyl cyanophosphonate | 0.45 mmol, 0.07 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.82 mmol, 0.083 g | C(C)N(CC)CC | C6H15N
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
solvent | H2O | 30 mL | O | H2O
product | 3-(1H-benzimidazol-2-yl)-5-(3-fluorophenyl)pyrazin-2-amine | N1C(=NC2=C1C=CC=C2)C=2C(=NC=C(N2)C2=CC(=CC=C2)F)N | C17H12FN5
